US09233098B2
2. Preparation of 2-[1-[4-(N-methyl-2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid
Methyl 2-[1-[4-(N-methyl-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate (about 1.0 mmol) was dissolved in tetrahydrofuran (30 mL), and in an ice bath, 20 mL aqueous solution dissolving lithium hydroxide monohydrate (210 mg, 5.0 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH=3-4 with diluted hydrochloric acid. A solid precipitated, which was filtered, dried, and purified by preparative liquid phase to obtain a white solid 147 mg, at a total yield over two steps of 32.7%.

reactant | Methyl 2-[1-[4-(N-methyl-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate | about 1.0 mmol | CN(C(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OC)C=C1 | C29H25N3O3
reactant | lithium hydroxide monohydrate | 5.0 mmol, 210 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(N-methyl-2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid | 147 mg | CN(C(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)O)C=C1 | C28H23N3O3
